US04171359
2-(2,3,6-Trifluorophenoxy) ethanol (48.8 g, 0.254 mole) and 24 g of anhydrous potassium carbonate in 800 ml of dimethylformamide was refluxed for 20 hours and then poured into water. This was extracted with ether, washed with water, and dried to give 5,8-difluoro-1,4-benzodioxane.

reactant | 2-(2,3,6-Trifluorophenoxy) ethanol | 0.254 mole, 48.8 g | FC1=C(OCCO)C(=CC=C1F)F | C8H7F3O2
reactant | potassium carbonate | 24 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 800 ml | CN(C=O)C | C3H7NO
product | 5,8-difluoro-1,4-benzodioxane | FC1=CC=C(C=2OCCOC21)F | C8H6F2O2
